US07183293B2
2-(4-Fluoro-phenoxy)-nicotinic acid of Formula (5.0.8)
2-Chloro-nicotinic acid ethyl ester, 4-fluoro-phenol, and cesium carbonate were mixed in anhydrous dioxane and the resulting slurry heated to reflux for about 16 h. In a separate flask, lithium hydroxide was dissolved in water with warming and then added to the refluxing mixture, which was heated for an additional 4 h. The mixture was cooled to ambient temperature and concentrated in vacuo to remove the dioxane. Concentrated hydrochloric acid was added dropwise until the pH=3. The acidified solution was then extracted with ethyl acetate to yield crude product, which was recrystallized from ethyl acetate to yield the purified title compound (10.8 g).

reactant | 2-Chloro-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
reactant | 4-fluoro-phenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | lithium hydroxide | [OH-].[Li+]
solvent | water | O | H2O
product | 2-(4-Fluoro-phenoxy)-nicotinic acid | FC1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C12H8FNO3
